US07915267B2
3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoic acid
By a method similar to that in Reference Example 15 and using, instead of ethyl 1H-1,2,4-triazol-3-ylacetate, ethyl 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoate obtained in Reference Example 24, the title compound was obtained as a white powder (175 mg, 85%).

reactant | ethyl 1H-1,2,4-triazol-3-ylacetate | N1N=C(N=C1)CC(=O)OCC | C6H9N3O2
reactant | ethyl 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoate | C1(=CC=CC=C1)C(N1N=C(N=C1)CCC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H25N3O2
product | 3-[1-(triphenylmethyl)-1H-1,2,4-triazol-3-yl]propanoic acid | C1(=CC=CC=C1)C(N1N=C(N=C1)CCC(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21N3O2
